US04628120
By treating (S)-1,1-diphenyl-1,2-propanediol with mesyl chloride, (S)-2-methanesulfonyloxy-1,1-diphenyl-1-propanol was obtained. Namely, as a result of the treatment of (S)-1,1-diphenyl-1,2-propanediol with CH3SO2Cl (1.2 equivalent)-(C2H5)3 -N(1.5 equivalent) at 0° C. in CH2Cl2, (S)-2-methanesulfonyloxy-1,1-diphenyl-1-propanol was obtained in a yield of 87% (the position selectivity of this sulfonylation reaction was more than 95% from the measurement with 1H NMR).

reactant | (S)-1,1-diphenyl-1,2-propanediol | C1(=CC=CC=C1)C([C@H](C)O)(O)C1=CC=CC=C1 | C15H16O2
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
product | (S)-2-methanesulfonyloxy-1,1-diphenyl-1-propanol | CS(=O)(=O)O[C@H](C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C16H18O4S
